US07071182B2
3-(2-naphthylthio)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]propanamide
According to the procedure for Example 49, 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine and 3-(naphthalen-2-ylsulfanyl)-propionic acid were processed to provide the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.84 (m, 2 H), 1.99 (m, 2 H), 2.79 (t, J=7.02 Hz, 2 H), 3.04 (m, 2 H), 3.40 (t, J=7.02 Hz, 2 H), 3.53 (m, 2 H), 3.71 (q, J=6.10 Hz, 2 H), 4.68 (t, J=6.26 Hz, 2 H), 7.06 (m, 1 H), 7.50 (m, 3 H), 7.70 (m, 1 H), 7.88 (m, 4 H), 8.09 (s, 1 H), 8.30 (s, 1 H), 9.62 (br s, N H); MS (DCI/NH3) m/z 445 (M+H)+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
reactant | 3-(naphthalen-2-ylsulfanyl)-propionic acid | C1=C(C=CC2=CC=CC=C12)SCCC(=O)O | C13H12O2S
product | 3-(2-naphthylthio)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]propanamide | C1=C(C=CC2=CC=CC=C12)SCCC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C26H28N4OS
